US07713994B2
To a solution of (4Z)-4-[({4-amino-3-[(triisopropylsilyl)oxy]benzyl}amino)methylene]-6-iodoisoquinoline-1,3(2H,4H)-dione (65 mg, 0.11 mmol) in tetrahydrofuran (6 mL) is added 4-methylmorpholine (36 μL, 0.33 mmol), and the mixture is cooled to 0° C. in an ice-water bath. Benzoyl chloride (38 μL, 0.33 mmol) is added and the mixture is allowed to stir at room temperature for one hour. To the mixture is then added 1.0 M tetrabutylammonium fluoride solution in tetrahydrofuran (1 mL, 1 mmol). After heating for 10 minutes at 55° C., water is added. The precipitated solid is collected by filtration, washed with water and acetonitrile, and dried under house vacuum to give N-[2-hydroxy-4-({[(Z)-(6-iodo-1,3-dioxo-2,3-dihydroisoquinolin-4(1H)-ylidene)methyl]amino}methyl)phenyl]benzamide (34 mg, 58%).

reactant | (4Z)-4-[({4-amino-3-[(triisopropylsilyl)oxy]benzyl}amino)methylene]-6-iodoisoquinoline-1,3(2H,4H)-dione | 0.11 mmol, 65 mg | NC1=C(C=C(CN\C=C\2/C(NC(C3=CC=C(C=C23)I)=O)=O)C=C1)O[Si](C(C)C)(C(C)C)C(C)C | C26H34IN3O3Si
reactant | 4-methylmorpholine | 0.33 mmol, 36 μL | CN1CCOCC1 | C5H11NO
reactant | Benzoyl chloride | 0.33 mmol, 38 μL | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | tetrabutylammonium fluoride | 1.0 M | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | tetrahydrofuran | 6 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 1 mmol, 1 mL | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | N-[2-hydroxy-4-({[(Z)-(6-iodo-1,3-dioxo-2,3-dihydroisoquinolin-4(1H)-ylidene)methyl]amino}methyl)phenyl]benzamide | 34 mg, 58% | OC1=C(C=CC(=C1)CN\C=C\1/C(NC(C2=CC=C(C=C12)I)=O)=O)NC(C1=CC=CC=C1)=O | C24H18IN3O4
